US07847100B2
N-(tert-butoxycarbonyl)-α-methyl-D-phenylalanine
To a slurry of α-methyl-D-phenylalanine (1.00 g, 5.58 mmol) in 20 mL dioxane was added 3N NaOH (7.4 mL, 22.32 mmol) and Boc2O (1.28 g, 5.86 mmol). The reaction was allowed to proceed for 14 h. The pH was lowered to ˜1 by adding 1N HCl dropwise, diluted with water, and the aqueous layer was extracted with EtOAc (3×). Dried combined organics over Na2SO4, filtered and concentrated to obtain the desired product as a white foam. This was used without further purification. 1H NMR (d4-MeOH, 400 Mhz) δ 7.25-7.17 (m, 3H), 7.12 (d, J=6.6 Hz, 2H), 3.27 (d, J=13.4 Hz, 1H), 3.15 (d, J=13.4 Hz, 1H), 1.45 (s, 9H), 1.39 (s, 3H). LCMS [(M-Boc)+H]+=180

reactant | α-methyl-D-phenylalanine | 5.58 mmol, 1.00 g | C[C@@](N)(CC1=CC=CC=C1)C(=O)O | C10H13NO2
reactant | NaOH | 22.32 mmol, 3N, 7.4 mL | [OH-].[Na+]
reactant | Boc2O | 5.86 mmol, 1.28 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 1N | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | N-(tert-butoxycarbonyl)-α-methyl-D-phenylalanine | C(C)(C)(C)OC(=O)N[C@](CC1=CC=CC=C1)(C(=O)O)C | C15H21NO4
